US08492378B2
4-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-N-[3-(trifluoromethyl)phenyl]pyridin-2-amine
To a solution of 4-[5-(methylthio)-1,3,4-oxadiazol-2-yl]-N-[3-(trifluoromethyl)phenyl]pyridin-2-amine (455 mg, 1.29 mmol) in N,N-dimethylacetamide (5 mL) was added m-chloroperbenzoic acid (70%, 619 mg, 2.58 mmol), and the resulting mixture was stirred at room temperature for 2 hr and at 50° C. overnight. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred for 15 min and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (126 mg, yield 25%) as yellow crystals.

reactant | 4-[5-(methylthio)-1,3,4-oxadiazol-2-yl]-N-[3-(trifluoromethyl)phenyl]pyridin-2-amine | 1.29 mmol, 455 mg | CSC1=NN=C(O1)C1=CC(=NC=C1)NC1=CC(=CC=C1)C(F)(F)F | C15H11F3N4OS
reactant | m-chloroperbenzoic acid | 2.58 mmol, 619 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 4-[5-(methylsulfonyl)-1,3,4-oxadiazol-2-yl]-N-[3-(trifluoromethyl)phenyl]pyridin-2-amine | 126 mg, yield 25% | CS(=O)(=O)C1=NN=C(O1)C1=CC(=NC=C1)NC1=CC(=CC=C1)C(F)(F)F | C15H11F3N4O3S
